US04711889
A suspension of 11.2 g of benzyl [2-(9-oxo-10(9H)-acridinyl)ehtyl]carbamate in 100 ml of glacial acetic acid is treated with 20 ml of hydrogen bromide-containing glacial acetic acid (about 30 percent) and stirred for 1 hour. The product is filtered and washed with glacial acetic acid and ether. There is obtained 10-(2-aminoethyl)-9-acridanone hydrobromide of melting point >250°. The free base is precipitated from an aqueous solution with sodium bicarbonate solution, filtered and washed with water and acetone. The hydrochloride obtained therefrom and analyzed melts above 250°.

reactant | benzyl [2-(9-oxo-10(9H)-acridinyl)ehtyl]carbamate | 11.2 g | O=C1C2=CC=CC=C2N(C=2C=CC=CC12)CCNC(OCC1=CC=CC=C1)=O | C23H20N2O3
reactant | hydrogen bromide | 20 ml | Br | BrH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 10-(2-aminoethyl)-9-acridanone hydrobromide | Br.NCCN1C=2C=CC=CC2C(C2=CC=CC=C12)=O | InChI=1S/C15H14N2O.BrH/c16-9-10-17-13-7-3-1-5-11(13)15(18)12-6-2-4-8-14(12)17;/h1-8H,9-10,16H2;1H
